* D:\Onedrive\OneDrive - The University of Nottingham Ningbo China\文档\GitHub\ee204_team18_Yifan-Zhang\Lab3_SigCond\Lab2_Spice\Lab3_SignCond.asc
* Generated by LTspice 24.1.10 for Windows.
X§U11 N003 N002 5V 0 Vout1 LM324 ;§pnba In+)In-)V+)V-)OUT
V1 5V 0 5V
Vsupply Vac 0 SINE(0 21.78 500)
X§Reg 0 N008 Vin LT1085-5 ;§pnba GND)OUT)IN
RL N008 0 100
Rin Vin N007 33
D1 Vac N007 1N4148
Cin Vin 0 47µ Rser=0.001
Cout N008 0 10µ Rser=0.001
R1a1 N003 Vsens 1k
R1b1 N002 0 1k
R2b1 Vout1 N002 10k
R2a1 0 N003 10k
X§U12 N005 N004 5V 0 Vout2 LM324 ;§pnba In+)In-)V+)V-)OUT
V2 2V1 0 2.1V
R1a2 N005 Vsens 1k
R1b2 N004 0 1k
R2b2 Vout2 N004 10k
R2a2 2V1 N005 10k
V3 Vsens 0 SINE(0 0.1 500) AC .1 0
Rload N001 Vis 29.02
Lload Vac N001 4mH
Rs Vis 0 0.5
Ra Vac Vvs 100k
Rb Vvs 0 4.7k
X§U21 N009 N006 5V 0 Vio LM324 ;§pnba In+)In-)V+)V-)OUT
R1a3 N009 Vis 1.2k
R1b3 N006 0 1.2k
R2b3 Vio N006 2.7k
R2a3 2V1 N009 2.7k
X§U1 N011 N010 5V 0 Vvo LM324 ;§pnba In+)In-)V+)V-)OUT
R1a4 N011 Vvs 10k
R1b4 N010 0 10k
R2b4 Vvo N010 10k
R2a4 2V1 N011 10k
Rf Vfilter Vopamp 160
Cf 0 Vfilter 100nF
V4 Vopamp 0 SINE(2.1 1 500) AC 1 0
.model D D
.lib C:\Users\a2371\AppData\Local\LTspice\lib\cmp\standard.dio
* .ac dec 100 1 1Mega
.lib LM324.lib
* Part 1A
* Part 1B
* Power/Signal Sources
* *********************************************************\nELECTENG 209 - Lab 2 (Rev1.2)\nModels required for Lab 2 provided as a starting point.\nLM324.lib should be in the same folder.\nDuleepa J Thrimawithana\n30/05/2021\n*********************************************************
* AC Source, Load and Sensors
* Notes: \n- These sources are used by more than 1 model and therefore\n   be mindful that changing these will effect most parts
* Notes: \n- Change Rs, Ra and Rb as per what you decided during lab 1\n- Rload is the variable resistor in your load which changes \n  from 5-105 ohms \n- Vsupply is between 12.6-15.4Vrms\n- Be mindful that changing values here will effect other parts
* Load \n(2.5VA-7.5VA)
* Current Sens \n(Pmax=?)
* Voltage Sens\n(Vvs(max)=?)
* Simulation Commands\n- Change these as needed
* Part 2
* Notes: \n- Change resistor values as per your calculations for R1 and R2
* Part 3
* Notes: \n- Change resistor values as per your calculations for R1a, R1b and R2\n- R1a together with Thevenin of Ra & Rb should equal R1b
* Part 5
* Part 4
* Notes: \n- Change capacitor and resistor values as per your calculations\n- Change the simulation command to simulate the frequency response
.tran 0 0.5 0 0.01m
.ic V(Vin)=8
* Notes: \n- Change net label 5VDis to 5V to use the DC regulator - In this case \n  the 5V net attached to V1 needs to be set to 5VDis to disconnect it
.lib LT1083.lib
.backanno
.end
